US09328076B2
8. Synthesis of 2-(3,5-dichlorophenylamino)-4-methylamino-6-(4-hydroxyphenylamino)-1,3,5-triazine
The title compound was synthesized from 2-(3,5-dichlorophenylamino)-4-methylamino-6-chloro-1,3,5-triazine and 4-aminophenol using a similar procedure to the one used in 8. Yield: 74%; Tg 83° C., Tc 155° C., Tm 187° C.; FTIR (CH2Cl2/KBr) 3401, 3282, 3180, 3112, 2952, 2918, 2850, 1572, 1514, 1503, 1421, 1400, 1366, 1258, 1227, 1168, 1114, 1080, 1011, 993, 937, 833, 807, 737, 703, 668, 632 cm−1; 1H NMR (300 MHz, DMSO-d6, 298 K): δ 9.43 (br s, 0.5H), 9.29 (br s, 0.5H), 9.00 (br s, 0.5H), 8.83 (br s, 0.5H), 7.90 (br d, 2H), 7.43 (br s, 2H), 7.06 (s, 1H), 7.00 (br s, 1H), 6.70 (d, 3J=8.8 Hz, 2H), 2.81 (d, 3J=4.1 Hz, 3H) ppm; 13C NMR (75 MHz, DMSO-d6): δ 165.9, 164.0, 163.6, 152.7, 143.0, 133.6, 131.1, 122.6, 120.0, 117.1, 114.9, 27.2 ppm; HRMS (EI) calcd. for C16H14Cl2N6O (m/e): 376.0606.found: 376.0601.

reactant | 2-(3,5-dichlorophenylamino)-4-methylamino-6-chloro-1,3,5-triazine | ClC=1C=C(C=C(C1)Cl)NC1=NC(=NC(=N1)NC)Cl | C10H8Cl3N5
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
reactant | CH2Cl2 KBr | C(Cl)Cl.[K+].[Br-]
product | 2-(3,5-dichlorophenylamino)-4-methylamino-6-(4-hydroxyphenylamino)-1,3,5-triazine | Yield: 74% | ClC=1C=C(C=C(C1)Cl)NC1=NC(=NC(=N1)NC)NC1=CC=C(C=C1)O | C16H14Cl2N6O
